US05385894
6-Amino-2-n-butyl-3-[(2'-(N-triphenylmethyl-tetrazol-5-yl)-biphen-4-yl)-methyl]-quinazolin-4(3H)-one
A solution of 3.2 g (4.4 mmol) of 2-n-Butyl-3-[(2'-(N-triphenylmethyl-tetrazol-5-yl)-biphen-4-yl)-methyl]-6-nitro quinazolin-4(3H)-one in 100 mL of EtOAc was hydrogenated over night under atmospheric pressure in the presence of 0.5 g of 10% Pd/C. The solution was filtered through celite and the celite was washed with CH2Cl2 to remove any of the yellow coloured product. The filtrate was concentrated in vacuo to give 3.0 g of a pale yellow solid. The material was not purified further. 98% yield. 1H-NMR (CDCl3 -300 MHz): 0.89 (t, 3H, J=7.3 Hz), 1.32 (m, 2H), 1.69 (m, 2H), 2.62 (3 line m, 2H, J=7.9 Hz), 4.00 (bs, 2H), 5.29 (bs, 2H), 6.88-7.02 (m, 6H), 7.08-7.15 (m, 4H), 7.22-7.38 (m, 11H), 7.45-7.55 (m, 4H), 7.93 (dd, 1H, J=2.5, 7.0 Hz).

reactant | 2-n-Butyl-3-[(2'-(N-triphenylmethyl-tetrazol-5-yl)-biphen-4-yl)-methyl]-6-nitro quinazolin-4(3H)-one | 4.4 mmol, 3.2 g | C(CCC)C1=NC2=CC=C(C=C2C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)[N+](=O)[O-] | C45H37N7O3
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | 6-Amino-2-n-butyl-3-[(2'-(N-triphenylmethyl-tetrazol-5-yl)-biphen-4-yl)-methyl]-quinazolin-4(3H)-one | 3.0 g, 98% yield | NC=1C=C2C(N(C(=NC2=CC1)CCCC)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C45H39N7O
